US05981533
With ice-cooling, 19.3 ml of a 5.4N sodium methanolate solution in 20 ml of methanol (purissimum) are added to 9.9 g of benzylhydrazine dihydrochloride in 20 ml of methanol (purissimum) and the reaction mixture is stirred for approx. 15 minutes at room temperature and then introduced into a solution of 4.65 g of 2-cyano-3-methylmercapto-3-phenylamino-acrylonitrile in 150 ml of absolute ethanol. The mixture is heated under reflux for approx. 17 hours and cooled to room temperature and insoluble material is filtered off with suction. The filtrate is concentrated by evaporation using a rotary evaporator and the brown oily residue is chromatographed on 190 g of silica gel, methylene chloride/ethyl acetate mixtures being used as eluant. 5-Amino-1-benzyl-4-cyano-3-phenylamino-pyrazole is obtained; m.p. 139-140° C., FAB-MS: (M+H)+ =290 (C17H15N5).

reactant | sodium methanolate | 5.4N | C[O-].[Na+]
reactant | benzylhydrazine dihydrochloride | 9.9 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | 2-cyano-3-methylmercapto-3-phenylamino-acrylonitrile | 4.65 g | C(#N)C(C#N)=C(NC1=CC=CC=C1)SC | C11H9N3S
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-Amino-1-benzyl-4-cyano-3-phenylamino-pyrazole | NC1=C(C(=NN1CC1=CC=CC=C1)NC1=CC=CC=C1)C#N | C17H15N5
